US08138187B2
2-(2-(1H-Indol-3-yl)ethyl)isoindoline-1,3-dione
A solution of tryptamine (3.04 g, 19.0 mmol) and phthalic anhydride (3.0 g, 20.0 mmol) in toluene (300 ml) was boiled under reflux for 12 h using a water separator. The solvent was removed i. vac. and the residue was recrystallized from methylene chloride/cyclohexane. Yield: 4.46 g (81%)

reactant | tryptamine | 19.0 mmol, 3.04 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | phthalic anhydride | 20.0 mmol, 3.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(1H-Indol-3-yl)ethyl)isoindoline-1,3-dione | N1C=C(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O | C18H14N2O2
